US04568670
To a mixture of 6.6 g of N,N-dimethylcarbamimidothioic acid, ethyl ester, 8.0 g of finely powdered potassium carbonate and 50 ml of acetonitrile was added dropwise 8.0 g of phosphorochloridothioic acid, O,S-dimethyl ester. The mixture was stirred until no starting material could be detected by GLC (Gas Liquid Chromatography). The salts were then removed by filtration, the filtrate concentrated under vacuum, the residue taken up in ether, the ether solution washed once with water, once with 5% aqueous sodium hydroxide, once with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under vacuum and the residue distilled in a Kugelrohr (bath temperature 140° C., pressure 0.3 mm) yielding 8.2 g (64% of theoretical) of N'-(methoxy(methylthio)phosphinyl)-N,N-dimethylcarbamimidothioic acid, ethyl ester as a colorless oil. The IR and NMR spectra are identical to those obtained from the compound prepared by method A.

reactant | N,N-dimethylcarbamimidothioic acid, ethyl ester | 6.6 g | CN(C(=N)SCC)C | C5H12N2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | phosphorochloridothioic acid, O,S-dimethyl ester | 8.0 g | P(OC)(SC)(Cl)=O | C2H6ClO2PS
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N'-(methoxy(methylthio)phosphinyl)-N,N-dimethylcarbamimidothioic acid, ethyl ester | 8.2 g, 64% | COP(=O)(N=C(N(C)C)SCC)SC | C7H17N2O2PS2
